US04353827
4.8 g (0.025 mmol) of 6-methoxyisatoic acid anhydride and 3.0 g (0.026 mol) of L-proline in 40 ml of dimethyl sulphoxide is heated to 70° for 2 hours, the solvent is removed in a high vacuum and the oil obtained is heated to 170° for 15 minutes. After treatment with active carbon, the crude product is recrystallized from methanol, there being obtained (S)-1,2,3,11a-tetrahydro-6-methoxy-5H-pyrrolo[2,1-c][1,4]benzodiazepine-5,11(10H)-dione of melting point 247°-251°.

reactant | 6-methoxyisatoic acid anhydride | 0.025 mmol, 4.8 g | COC=1C=CC=C2C1C(=O)OC(N2)=O | C9H7NO4
reactant | L-proline | 0.026 mol, 3.0 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | dimethyl sulphoxide | 40 ml | CS(=O)C | C2H6OS
product | (S)-1,2,3,11a-tetrahydro-6-methoxy-5H-pyrrolo[2,1-c][1,4]benzodiazepine-5,11(10H)-dione | COC1=CC=CC2=C1C(N1[C@H](C(N2)=O)CCC1)=O | C13H14N2O3
